US05831134
1-Tetradecene, 2-propanol and di-tert.-butyl peroxide are reacted in a molar ratio of 1:15:0.1 as described in example 1 at a pressure of 3000 kPa. The contact time of the reaction mixture in a reactor that is heated to 175° C. is ca. 20 minutes. 1-Tetradecene has completely reacted after this time. The addition product 2-methyl-2-hexadecanol is formed with a selectivity of 65% and isolated as described in example 1.

reactant | 1-Tetradecene | C=CCCCCCCCCCCCC | C14H28
reactant | di-tert.-butyl peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-methyl-2-hexadecanol | CC(C)(CCCCCCCCCCCCCC)O | C17H36O
